US07514422B2
N-methyl-8-Chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine;
N-methyl-8-Bromo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine; N-methyl-8-Iodo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine; N-methyl-8-Trifluoromethyl-1-methyl-2,3,4,5-tetrahydro-1-3-benzazepine; N-methyl-8-Trifluoromethyl-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine; N-methyl-8-Chloro-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine; N-methyl-8-Bromo-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine; N-methyl-8-Iodo-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine; N-methyl-7,8-Dichloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine; N-methyl-7,8-Dichloro-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine; N-methyl-8-Chloro-7-fluoro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine; and N-methyl-8-Chloro-7-fluoro-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine; or a pharmaceutically acceptable salt, solvate or hydrate thereof

reactant | N-methyl-8-Bromo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | CN1CCC2=C(C(C1)C)C=C(C=C2)Br | C12H16BrN
reactant | N-methyl-8-Iodo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | CN1CCC2=C(C(C1)C)C=C(C=C2)I | C12H16IN
reactant | N-methyl-8-Trifluoromethyl-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine | CN1CCC2=C(C(C1)CC)C=C(C=C2)C(F)(F)F | C14H18F3N
reactant | N-methyl-8-Chloro-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine | CN1CCC2=C(C(C1)CC)C=C(C=C2)Cl | C13H18ClN
reactant | N-methyl-8-Bromo-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine | CN1CCC2=C(C(C1)CC)C=C(C=C2)Br | C13H18BrN
reactant | N-methyl-8-Iodo-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine | CN1CCC2=C(C(C1)CC)C=C(C=C2)I | C13H18IN
reactant | N-methyl-7,8-Dichloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | CN1CCC2=C(C(C1)C)C=C(C(=C2)Cl)Cl | C12H15Cl2N
reactant | N-methyl-7,8-Dichloro-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine | CN1CCC2=C(C(C1)CC)C=C(C(=C2)Cl)Cl | C13H17Cl2N
reactant | N-methyl-8-Chloro-7-fluoro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | CN1CCC2=C(C(C1)C)C=C(C(=C2)F)Cl | C12H15ClFN
reactant | N-methyl-8-Chloro-7-fluoro-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine | CN1CCC2=C(C(C1)CC)C=C(C(=C2)F)Cl | C13H17ClFN
product | N-methyl-8-Chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | CN1CCC2=C(C(C1)C)C=C(C=C2)Cl | C12H16ClN
